US07994336B2
a) Synthesis of 3-chloro-2-oxo-3-(4-trifluoromethyl-phenyl)-propionic acid methylester
This compound was synthesised as 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methylester but using 4-trifluoromethylbenzaldehyde instead 4-fluorobenzaldehyde. 1H-NMR (CDCl3): δ=3.93 (s, 3H); 4.55 (s, 1H); 7.52 (d, 2H); 7.66 (d, 2H).

reactant | 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methylester | COC(C(C(C1=CC=C(C=C1)F)Cl)=O)=O | C10H8ClFO3
reactant | 4-trifluoromethylbenzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 3-chloro-2-oxo-3-(4-trifluoromethyl-phenyl)-propionic acid methylester | COC(C(C(C1=CC=C(C=C1)C(F)(F)F)Cl)=O)=O | C11H8ClF3O3
